* Frozen netlist snapshot for record 20260802-042053-5066d85
* source     : sim/startup-state-search/testbench/bandgap_startup_state_search.spice
* sha256     : b2c3f796afbd83efeffecd38db897de189b150b525ebcaabd256f10c618f6af0
* This is a verbatim copy taken at record time. Do not edit.
* bandgap-startup adversarial degenerate-state search testbench (issue #11).
*
* CORE RESIZED IN #61 -- RECORDS TAKEN BEFORE AND AFTER ARE NOT COMPARABLE.
* The bandgap_core copy embedded below carries #61's R1/R2 co-scaling: both
* the PTAT resistor R2 and the output-branch summing resistor R1 (here in
* its pre-trim lumped form, electrically R1 + 32 trim units at the default
* code) are scaled by k = 2, halving the design current I = dVBE/R2 while
* holding I*R1 and the R1/R2 ratio fixed. See design/bandgap_core.sch's
* header and design/bandgap_error_budget.md Sec 5 for the derivation.
*
* AMP SIZING (comparability note, #10 integration): the bandgap_amp subckt
* below carries the FINAL, offset-budgeted sizing from issue #10
* (design/bandgap_error_budget.md) -- input pair M1/M2 W=100u nf=2 / L=4u,
* mirror load M3/M4 W=40u / L=4u -- and is byte-for-byte the
* design/netlist/bandgap_top.spice expansion of the current
* design/bandgap_amp.sch. The first records minted from this testbench
* (2026-08-01, record-ids ending -fbfa3f1) predate #10 and used #8's
* provisional 10u/4u amp; #10 landed after those records were minted, so
* per issue #11's own ordering note they are SUPERSEDED rather than
* amended -- see this experiment's records/ for the superseding record and
* its Supersedes: field. Records taken before and after this change are
* NOT directly comparable: the resize raises the input pair's gm ~3x and
* the amp's own node capacitance ~4-10x, which moves the servo loop's
* settling dynamics and therefore the measured startup time.
*
* Netlist FRAGMENT for sim/harness (sim/README.md format). Same
* bandgap_top/bandgap_core/bandgap_amp/bandgap_startup subckts (with the
* same Vsu_sense instrumentation tap) as sim/startup/, but driven
* differently: vdd is held DC at vdd_val from t=0 (supply already valid,
* not ramping) and the design is seeded via .ic at the DEGENERATE
* (near-zero-current) operating point -- fb, casc and the four mirror-drain
* nodes (d1..d4) pinned high, everything else at 0 -- with the startup
* circuit ENABLED and a uic transient (skips the DC operating-point solve,
* which sim/bandgap-loop-smoke/'s and design/bandgap_operating_point.md's
* own experiments show is NOT reliable for finding/holding this state --
* ngspice's gmin-stepping during a plain .op solve tends to nudge a
* self-biased loop like this one toward the nonzero solution regardless of
* the .ic/.nodeset seed, which is a solver artifact, not evidence -- see
* design/bandgap_operating_point.md section 4.2). uic bypasses that solve
* entirely and starts the transient exactly at the seeded point, which is
* the only reliable way to prove this state is (or is not) a trap.
*
* The .ic values are literal (3.63 V, the maximum PVT supply) rather than
* {vdd_val}-substituted: ngspice's .ic parser does not evaluate {}
* parameter expressions (unlike device/source value fields), and a fixed,
* corner-independent, deliberately-higher-than-any-actual-corner value is,
* if anything, a MORE adversarial seed than matching each corner's own
* vdd_val exactly -- see sim/startup-state-search/records/ for the
* corner-by-corner recovery result this produces.
*
* This is the "(b) adversarial initial-condition settle search" leg of
* issue #11's required multi-pronged no-other-stable-state evidence
* (Implementation guidance); see sim/startup-disabled-control/ for leg (c)
* (proving this same seed IS a stable trap when the startup circuit is
* disabled) and sim/startup/, sim/startup-slow-ramp/ for leg (a) (ramp
* transients from a true physical zero).

.subckt bandgap_top vdd vss vref

Xx1 vdd sns1 sns2 vss fb vref ibias casc bandgap_core
Xx2 sns2 sns1 vss fb vdd ibias bandgap_amp
Vsu_sense vdd vdd_su 0
Xx3 vdd_su vss fb casc ibias bandgap_startup
.ends
.subckt bandgap_core vdd sns1 sns2 vss fb vref ibias casc

XM1 d1 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 sns1 casc d1 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XQ1 vss vss sns1 pnp_05p00x05p00 m=1
XM2 d2 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 sns2 casc d2 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR2 e2 sns2 vss ppolyf_u r_width=2u r_length=36.341871u m=1
XQ2 vss vss e2 pnp_10p00x10p00 m=1
XM3 d3 fb vdd vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 vref casc d3 vdd pfet_03v3 L=6u W=60u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XR1 e3 vref vss ppolyf_u r_width=2u r_length=560.341647u m=1
XQ3 vss vss e3 pnp_05p00x05p00 m=1
XM4 d4 fb vdd vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 ibias casc d4 vdd pfet_03v3 L=6u W=7.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 ibias ibias vss vss nfet_03v3 L=2u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMCB casc casc vdd vdd pfet_03v3 L=12u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMNB casc ibias vss vss nfet_03v3 L=2u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends
.subckt bandgap_amp in_p in_n vss out vdd tail_bias


XM3 a3 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 a4 nd1 vdd vdd pfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC3 nd1 pbias a3 vdd pfet_03v3 L=16u W=40u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC4 out pbias a4 vdd pfet_03v3 L=16u W=40u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC1 nd1 ncasc n1 vss nfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMC2 out ncasc n2 vss nfet_03v3 L=16u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 n1 in_p tail vss nfet_03v3 L=4u W=200u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 n2 in_n tail vss nfet_03v3 L=4u W=200u nf=8 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 tail tail_bias vss vss nfet_03v3 L=4u W=10u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBN2 pbias tail_bias vss vss nfet_03v3 L=16u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBP1 pbias pbias vdd vdd pfet_03v3 L=50u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMB1 ncasc pbias vdd vdd pfet_03v3 L=50u W=5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD1 ncasc ncasc nb1 vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMBD2 nb1 nb1 vss vss nfet_03v3 L=4u W=1u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XCC vdd out cap_mim_2f0_m4m5_noshield c_width=60u c_length=60u m=1
.ends
.subckt bandgap_startup vdd vss fb casc ibias

XMSENSE det ibias vss vss nfet_03v3 L=2u W=20u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XRPU det vdd vss ppolyf_u_1k r_width=2u r_length=4000u m=1
XMKFB fb det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XMKCASC casc det vss vss nfet_03v3 L=2u W=2u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends

vsup vdd 0 dc {vdd_val}
Xtop vdd 0 vref bandgap_top

.ic v(xtop.fb)=3.63 v(xtop.sns1)=0 v(xtop.sns2)=0 v(vref)=0 v(xtop.ibias)=0
+ v(xtop.xx1.casc)=3.63 v(xtop.xx2.tail)=0 v(xtop.xx1.d1)=3.63 v(xtop.xx1.d2)=3.63
+ v(xtop.xx1.d3)=3.63 v(xtop.xx1.d4)=3.63 v(xtop.xx1.e2)=0 v(xtop.xx1.e3)=0
